US06465472B1
1,4-Benzodioxan-6-acetamide
To a solution of 1,4-benzodioxan-6-amine (2.0 g, 13.2 mmol) in 5 mL of anhydrous pyridine at 0° C. was added acetic anhydride (1.87 mL, 19.9 mmol) and the solution was stirred at rt overnight. The solution was then added to 50 mL of water and was extracted with 2×50 mL of EtOAc. The extract was washed with 1N HCl, water and brine, then dried over MgSO, and concentrated in vacuo to yield the title compound (1.82 g, 71%). 1H NMR (CDCl3): 7.13 (m, 2H), 6.88 (dd, 1H), 6.80 (d, 1H), 4.25 (s, 4H), 2.15 (s, 3H).

reactant | 1,4-benzodioxan-6-amine | 13.2 mmol, 2.0 g | O1CCOC2=C1C=CC(=C2)N | C8H9NO2
reactant | acetic anhydride | 19.9 mmol, 1.87 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 50 mL | O | H2O
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 1,4-Benzodioxan-6-acetamide | 1.82 g, 71% | O1CCOC2=C1C=CC(=C2)CC(=O)N | C10H11NO3
